US08026370B2
4-(chloromethyl)-2-(4-methylphenyl)-1,3-oxazole
4-Methylbenzamide (10.0 g) and 1,3-dichloroacetone (9.4 g) were dissolved in ethanol (100 mL), and the mixture was refluxed for 8 hr. After cooling, the reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel chromatography (elution solvent; hexane:ethyl acetate=10:1 to 7:1) to give the title compound (7.8 g) as a white solid.

reactant | 4-Methylbenzamide | 10.0 g | CC1=CC=C(C(=O)N)C=C1 | C8H9NO
reactant | 1,3-dichloroacetone | 9.4 g | ClCC(=O)CCl | C3H4Cl2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-(chloromethyl)-2-(4-methylphenyl)-1,3-oxazole | 7.8 g | ClCC=1N=C(OC1)C1=CC=C(C=C1)C | C11H10ClNO
